Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
ciprofloxacin / fluconazole
 
Attending: ___.
 
Chief Complaint:
Elevated WBC, malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ETOH hepatitis and pancreatitis episode ___ with 
prolonged hospitalization at ___ c/b PNA, 
sepsis, respiratory failure, and pancreatic pseudocyst s/p 
endoscopic cystogastrostomy ___ and ___ drainage of R flank 
collection ___ c/b infection of pseudocyst (___), 
___ fungemia, & severe necrotizing pancreatitis s/p 
laparoscopic
drainage and debridement ___, on home tube feeds and 
outpatient micafungin therapy, now presents at the behest of her 
outpatient caregiver due to an elevated WBC to 18 on routine 
outpatient labs. She does endorse some malaise, myalgias, and 
mild SOB for the past ___s a change in character of
her drain output from a purulent yellowish color to a purulent 
brown/tan color, however drain quantity has remained unchanged 
at about 40cc per day. Has had some non-radiating LLQ pain 
around her ostomy for the past couple weeks that is dull and not 
exacerbated by palpation or tube feeds (via dobhoff) and has 
been stable, but she does feel that oral intake occasionally 
makes this pain increase.  Denies nausea or emesis and continues 
to pass stool and gas from her ostomy, has lost ___ lbs over the 
past month. She continues to have intermittent low-grade fevers 
at home, but no fevers of 101 or higher, no chills or sweats. 
RUE ___ site is cared for by home RN's and the cap is changed 
weekly, last changed today, and she has not noticed any swelling
or redness or drainage from this site. No pain with urination, 
urinary frequency, or discharge.  No dizziness, lightheadedness, 
chest pain, cough.  Surgery is now consulted regarding her 
elevated WBC and generalized malaise. 

 
Past Medical History:
Per ___ and ___ discharge summary ___.
Hypertension.
Hypercholesterolemia.
Diabetes ___ pancreatitis.
Metabolic toxic encephalopathy
Depression.
Diverticulitis s/p sigmoid resection and end colostomy unable to 
be reversed b/c severe scarring and fibrosis.
Anemia of chronic disease.
Breast Ca s/p bl mastectomy and chemotherapy ___ years ago.
ETOH abuse.
Bowel obstruction.
Pancreatic pseudocyst.
s/p appendectomy for ruptured appendix.
s/p laparoscopy - pelvic pain r/o endomitriosis

 
Social History:
___
Family History:
Cancer
 
Physical Exam:
Discharge physical exam:
Vital signs afebrile and stable
Gen: Alert and oriented, no acute distress
CV: RRR
Pulm: No respiratory distress
Abdomen: Soft, non-distended, mildly tender, ostomy with foul 
smelling brown stool, R flank drainage with small amount of 
brown liquid
Extremities: warm and well perfused
 
Pertinent Results:
___ 09:20PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-5.0 LEUK-LG
___ 09:20PM URINE  RBC-7* WBC-50* BACTERIA-FEW YEAST-NONE 
EPI-11 TRANS EPI-<1
___ 09:20PM URINE  MUCOUS-MANY
___ 05:20PM   GLUCOSE-107* UREA N-12 CREAT-0.5 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-22 ANION GAP-19
___ 05:20PM   estGFR-Using this
___ 05:20PM   ALT(SGPT)-28 AST(SGOT)-22 ALK PHOS-129* TOT 
BILI-0.3
___ 05:20PM   LIPASE-11
___ 05:20PM   ALBUMIN-4.3
___ 05:20PM   WBC-20.4*# RBC-4.78 HGB-13.2 HCT-40.1 MCV-84 
MCH-27.6 MCHC-32.8 RDW-15.6*
___ 05:20PM   NEUTS-82.5* LYMPHS-9.3* MONOS-6.8 EOS-1.1 
BASOS-0.4
___ 05:20PM   PLT COUNT-295

US from ___:
Nonocclusive thrombus extending from the right subclavian vein 
into the 
axillary and central portion of the basilic vein. There is no 
DVT in the 
distal basilic vein, cephalic vein or paired brachial veins. 

 
Brief Hospital Course:
Ms. ___ was admitted on ___ after being found to have an 
elevated WBC in combination with malaise and some abdominal 
pain.  She was pan-cultured on admission.  Her blood cultures 
revealed negative cultures in those drawn from peripheral IV's, 
however in the blood culture from the PICC, viridans strep, 
coag-neg staph, and micrococcus grew.  Her clostridium difficile 
PCR test at the same time was positive. The infectious disease 
service was then consulted.  They recommended that she be on IV 
vancomycin for 14 days for her gram positive bacteremia and po 
vancomycin for 2 months.  They planned to follow her in clinic 
to gradually wean the dose of po vanc.  On HOD1, she did note 
some blood from her R flank drain however this never occurred 
again during her hospitalization. On ___, IV nurse attempted 
to place a R sided PICC line however follow chest xray revealed 
it was curled up in the arm.  She then went to interventional 
radiology for placement of a PICC on ___.  The radiology 
placement was unsuccessful and it prompted for RUE US. US 
revealed right subclavian vein thrombosis. Patient was started 
on SC Lovenox. Her antibiotics were changed to Linezolid per ID. 
Also per ID, her micafungin was stopped on ___.  During her 
hospitalization, her WBC was trended and was normalized at the 
time of her discharge.  Her electrolytes were also monitored and 
repleted as necessary.  At the time of discharge, she was 
voiding, ambulatory, and mentating well. Her ostomy output was 
brown and foul smelling. The output from the drain on the R 
flank was decreasing in quantity and mostly liquid brown.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Duloxetine 60 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Gemfibrozil 600 mg PO BID 
4. HYDROmorphone (Dilaudid) 8 mg PO Q3H:PRN pain 
5. Pancrelipase 5000 2 CAP PO TID W/MEALS 
6. Lorazepam 1 mg PO Q8H:PRN anxiety 
7. Micafungin 100 mg IV Q24H 
8. Pantoprazole 40 mg PO Q24H 
9. Tamoxifen Citrate 20 mg PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Milk of Magnesia 30 mL PO HS:PRN constipation 
12. Multivitamins 1 TAB PO DAILY 
13. Senna 2 TAB PO HS:PRN constipation 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Duloxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Gemfibrozil 600 mg PO BID 
5. HYDROmorphone (Dilaudid) 8 mg PO Q3H:PRN pain 
6. Lorazepam 1 mg PO Q8H:PRN anxiety 
7. Micafungin 100 mg IV Q24H 
8. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
9. Multivitamins 1 TAB PO DAILY 
10. Pancrelipase 5000 2 CAP PO TID W/MEALS 
11. Pantoprazole 40 mg PO Q12H 
12. Senna 1 TAB PO BID:PRN constipation 
13. Tamoxifen Citrate 20 mg PO DAILY 
14. Vancomycin Oral Liquid ___ mg PO Q6H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Clostridium difficile colitis
2. Gram positive bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Note color, consistency, and amount of fluid in the drain.  
___ the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

PICC Line:
*Please monitor the site regularly, and ___ your MD, nurse 
practitioner, or ___ Nurse if you notice redness, swelling, 
tenderness or pain, drainage or bleeding at the insertion site.
* ___ your MD or proceed to the Emergency Room immediately if 
the PICC Line tubing becomes damaged or punctured, or if the 
line is pulled out partially or completely.  DO NOT USE THE PICC 
LINE IN THESE CIRCUMSTANCES.Please keep the dressing clean and 
dry. Contact your ___ Nurse if the dressing comes undone or is 
significantly soiled for further instructions.

What to watch out for when you have a Dobhoff Feeding Tube:
1. Blocked tube:  If the tube won't flush, try using 15 mL 
carbonated cola or warm water. If it still will not flush, ___ 
your nurse or doctor. Always be sure to flush the tube with at 
least 60 mL water after giving medicine or feedings.
2.Vomiting:
___ doctor if vomiting persists. Vomiting causes the loss of 
body fluids, salts and nutrients. 
*Give the feeding in an upright position. 
*Try smaller, more frequent feedings. Be sure the total amount 
for the day is the same though. 
*Infection may cause vomiting. Clean and rinse equipment well 
between feedings. 
*Do not let formula in the feeding bag hang longer than 6 hours 
unrefrigerated. After the formula can is opened, it should be 
stored in refrigerator until used. 
3. Diarrhea:
*This is frequent loose, watery stools. 
*Can be caused by: giving too much feeding at once or running it 
too quickly, decreased fiber in diet, impacted stool or 
infection. Some medicines also cause diarrhea. 
*Avoid hanging formula for longer than 6 hours. 
*Give more water after each feeding to replace water lost in 
diarrhea. 
___ doctor if diarrhea does not stop after ___ days. 
4. Dehydration:
*Due to diarrhea, vomiting, fever, sweating. (Loss of water and 
fluids) 
*Signs include: decreased or concentrated (dark) urine, crying 
with no tears, dry skin, fatigue, irritability, dizziness, dry 
mouth, weight loss, or headache. 
*Give more water after each feeding to replace the water lost. 
___ your doctor. 
5. Constipation:
___ be caused by too little fiber in diet, not enough water or 
side effects of some medicines. 
*Take extra fruit juice or water between feedings. 
*If constipation becomes chronic, ___ the doctor. 
6. Gas, bloating or cramping:  Be sure there is no air in the 
tubing before attaching the feeding tube. 
7.Tube is out of place: If the tube is no longer in your 
stomach, tape it down and ___ your doctor or home health nurse. 
Do not use the tube. You will need to have a new tube placed.

Monitoring Ostomy output/Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 1000mL to 1500mL per day. 


 
Followup Instructions:
___